US07345046B2
Methyl-3-amino-2-thiophene carboxylate (1 eq. 25 g) was dissolved in 250 ml methylene chloride and 250 ml of methanol. Phenyl trimethylammonium tribromide (3 eq. 180 g) was added followed by calcium carbonate (4 eq. 63.75 g) and the reaction was left stirring at room temperature overnight. The calcium carbonate was filtered off and the filtrate concentrated down and water (750 ml) was added followed by ethyl acetate (1 L). The ethyl acetate layer was washed with more water, sodium thiosulfate, saturated sodium bicarbonate and saturated sodium chloride. The organic layer was dried over magnesium sulfate, filtered and the filtrate was concentrated under reduced pressure. The crude product was purified by flash chromatography to yield 21.46 g (57%) of methyl 3-amino-5-bromothiophene-2-carboxylate as a light brown oil, MH+=238.1.

reactant | Methyl-3-amino-2-thiophene carboxylate | 25 g, 1 eq | COC(=O)C=1SC=CC1N | C6H7NO2S
reactant | Phenyl trimethylammonium tribromide | 180 g, 3 eq | [Br-].[Br-].[Br-].C1(=CC=CC=C1)[N+](C)(C)C.C1(=CC=CC=C1)[N+](C)(C)C.C1(=CC=CC=C1)[N+](C)(C)C
reactant | calcium carbonate | 63.75 g, 4 eq | C([O-])([O-])=O.[Ca+2]
solvent | methylene chloride | 250 ml | C(Cl)Cl | CH2Cl2
solvent | methanol | 250 ml | CO | CH4O
product | methyl 3-amino-5-bromothiophene-2-carboxylate | 21.46 g, 57% | NC1=C(SC(=C1)Br)C(=O)OC | C6H6BrNO2S
